US07109226B2
N-2-Phenoxyethyl-3-hydroxyphenylacetamide
3-Hydroxyphenylacetate (1.5 g, 9.88 mmol) was dissolved in dichloromethane. WSC.HCl (2.82 g, 14.76 mmol) and 2-phenoxyethylamine (1.5 g, 10.95 mmol) were added thereto, and then the resultant mixture was stirred for 4 hours at room temperature. After completion of reaction, water was added to the reaction mixture. The resultant mixture was extracted with chloroform, followed by washing with brine. The resultant mixture was subjected to drying over anhydrous sodium sulfate, concentration under reduced pressure, and purification by chromatography, whereby 2.85 g, a stoichiometric amount, of the target compound was obtained as a pale yellow oil.

reactant | 3-Hydroxyphenylacetate | 9.88 mmol, 1.5 g | OC=1C=C(C=CC1)CC(=O)[O-]
reactant | WSC.HCl | 14.76 mmol, 2.82 g | CCN=C=NCCCN(C)C.Cl
reactant | 2-phenoxyethylamine | 10.95 mmol, 1.5 g | O(C1=CC=CC=C1)CCN | C8H11NO
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-2-Phenoxyethyl-3-hydroxyphenylacetamide | O(C1=CC=CC=C1)CCNC(CC1=CC(=CC=C1)O)=O | C16H17NO3
